US07700655B2
(1) 2-Acetoxy-N-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)benzamide
Using O-acetylsalicyloyl chloride and 2-amino-5-(trifluoromethyl)-1,3,4-thiadiazole as the raw materials, the same operation as the Example 2(1) gave the title compound.

reactant | O-acetylsalicyloyl chloride | CC(=O)OC1=CC=CC=C1C(=O)Cl | C9H7ClO3
reactant | 2-amino-5-(trifluoromethyl)-1,3,4-thiadiazole | NC=1SC(=NN1)C(F)(F)F | C3H2F3N3S
product | 2-Acetoxy-N-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)benzamide | Yield: 51.1% | C(C)(=O)OC1=C(C(=O)NC=2SC(=NN2)C(F)(F)F)C=CC=C1 | C12H8F3N3O3S
